US07179934B2
(3R,4R,5R)-3-Amino-4,5-dimethyl-octanoic acid hydrochloride
Under nitrogen, 167 g of crude (3R,4R,5R)-3-acetylamino-4,5-dimethyl-octanoic acid ethyl ester was diluted 1100 mL of 6N HCl, stirred at room temperature for 16 hours, and then heated to reflux for another 24 hours. The reaction mixture was concentrated and recharged with 500 mL of isopropyl alcohol (IPA), which was subsequently removed. Acetonitrile (500 mL) was added to the crude white HCl salt and the mixture stirred at 20° C. to 25° C. for 1 hour. The resulting slurry was filtered, and the solids isolated to give 97 g of the titled compound (67% yield, 89.7% chemical purity; 90.7% chiral purity with two major diastereomers, 6.8% and 1.5%): 1H NMR (CD3OD): δ 0.89t J=7.0 Hz, 3H), 0.94t, J=6.9 Hz, 6H), 1.65–1.0 (m, 4H), 2.61 (dd, J=7.6 Hz, 1H), 2.73 (dd, J=4.6 HZ, 1H), 3.27 (m, J=1.6 Hz, 2H), 3.56 (m, 1H), 4.82 (s, 3H).

reactant | (3R,4R,5R)-3-acetylamino-4,5-dimethyl-octanoic acid ethyl ester | 167 g | C(C)OC(C[C@H]([C@@H]([C@@H](CCC)C)C)NC(C)=O)=O | C14H27NO3
reactant | HCl | 6N, 1100 mL | Cl | ClH
product | (3R,4R,5R)-3-Amino-4,5-dimethyl-octanoic acid hydrochloride | 97 g, 67% yield | Cl.N[C@H](CC(=O)O)[C@@H]([C@@H](CCC)C)C | InChI=1S/C10H21NO2.ClH/c1-4-5-7(2)8(3)9(11)6-10(12)13;/h7-9H,4-6,11H2,1-3H3,(H,12,13);1H/t7-,8-,9-;/m1./s1
